US05677464
(S)-Benzyl lactate (29 g) and 22.8 g of diisopropyl ethylamine were dissolved in 300 ml of dichloromethane and the solution was cooled to -50° to -60° C. To the solution was added dropwise 50 g of trifluoromethanesulfonic anhydride over the period of 15 minutes and the reaction mixture was stirred at -30° to -20° C. for 10 minutes. After adding 200 ml of dichloromethane, the mixture was washed with 50 ml of water, 50 ml of an aqueous solution of sodium bicarbonate and an aqueous solution of sodium chloride successively. The organic layer was dried over magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (silica gel: 250 g, eluent; hexane:dichloromethane=1:1) to give 44.2 g of benzyl (2S)-2-trifluoromethanesulfonyloxypropionate (yield: 88%) as a colorless oil.

reactant | (S)-Benzyl lactate | 29 g | C([C@@H](O)C)(=O)OCC1=CC=CC=C1 | C10H12O3
reactant | diisopropyl ethylamine | 22.8 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 50 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | benzyl (2S)-2-trifluoromethanesulfonyloxypropionate | 44.2 g, yield: 88% | FC(S(=O)(=O)O[C@H](C(=O)OCC1=CC=CC=C1)C)(F)F | C11H11F3O5S
